US05708007
A mixture of 4-(7-methoxy-2-benzofuranyl)pyridine (66 g), methyl iodide (56.7 g) and 2-butanone (800 ml) was stirred at 50° C. for 4 hours, cooled to room temperature, filtered and the resulting solid was washed with 2-butanone to provide 1-methyl-4-(7-methoxy-2-benzofuranyl)pyridinium iodide, m.p. 225°-227° (dec.). The quaternary salt (90 g) was dissolved in methanol (1 l) and a solution of NaBH4 (40 g) in H2O (250 ml) was added dropwise. The mixture was stirred at ambient temperature for 3 hours, concentrated and the residual aqueous layer was extracted with DCM. The extracts were combined, washed with brine and concentrated to give 1-methyl-4-(7-methoxy-2-benzofuranyl)-1,2,3,6-tetrahydropyridine.

reactant | 4-(7-methoxy-2-benzofuranyl)pyridine | 66 g | COC1=CC=CC=2C=C(OC21)C2=CC=NC=C2 | C14H11NO2
reactant | methyl iodide | 56.7 g | CI | CH3I
solvent | 2-butanone | 800 ml | CC(CC)=O | C4H8O
product | 1-methyl-4-(7-methoxy-2-benzofuranyl)pyridinium iodide | [I-].C[N+]1=CC=C(C=C1)C=1OC2=C(C1)C=CC=C2OC | InChI=1S/C15H14NO2.HI/c1-16-8-6-11(7-9-16)14-10-12-4-3-5-13(17-2)15(12)18-14;/h3-10H,1-2H3;1H/q+1;/p-1
